Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with past medical history of 
metastatic breast cancer (managed at ___ who was 
transferred from ___ for altered mental status with 
headache, confusion, and slurred speech.

Per report, patient states she awoke two days ago with left 
sided temporal headache that increased throughout the morning. 
Pain was localized to her left temple and eye and described as 
sharp. She also had concurrent nausea and had 6 episodes of 
emesis. Headache and nausea improved with lying flat. The pain 
was typical of headaches she gets on the R side, but has never 
felt this pain on the L side.

The patient then called her mother and felt that her speech was 
slurred. EMS was called and she was taken to ___ where head 
CT was reportedly stable diffuse bony mets and L>R dural 
thickening. She received dexamethasone IV 10 mg x 1 and 
ceftriaxone. She, per paperwork, had improvement in her language 
with the dexamethasone. She was then transferred to ___.

In the ED, neurology noted that on initial evaluation that the 
confusion and speech difficulty had resolved (episode lasted 10 
am - 3 pm per neurology note). They also note that she has a 6 
month history of difficulty with motor function, episodes of 
dizziness with standing. She had reported these symptoms 
worsened after starting a new chemotherapy drug called Eribulin 
last month. Last dose of eribulin was ___, and that was the 
end of the ___ cycle. Has had radiation to multiple areas in the 
past, but not currently getting radiation.
 
Past Medical History:
METASTATIC ONCOLOGIC HISTORY
- ___: restaging studies showed diseas progression on 
Letrozole. Palbo was added
- ___: restaging studies showed 'increased sclerosis, most 
likely representing tx effect' but tumor markers were up a litte
- Developed R vision problems. ___ MRI brain with 
retroorbital mass (followed by Dr. ___ ___
- Developed skin nodules. ___ biopsy nodules showed 
metastatic cancer
- ___: CT scan w/ progression, started Xeloda
- ___: Transaminitis - MRI liver unremarkable and resolved
- ___: transitioned to taxol secondary to clinical 
progression. Received 3 cycles of Taxol (9 weeks, last on 
___. Has some clinical improvemenet with Taxol (less pain)
- ___: PET-CT was 'relatively stable
- ___: MRI brain - increase in pachymeningeal disease. Case 
discussed at length with Dr. ___, Dr. ___ Dr. ___. 
STarted on Exemestane prior to radiation, started on everolimus 
afterward
- ___: treated by Dr. ___ on the ___ for base of the 
skul and retro-orbital masses (symptomatic with dizziness, 
confirmed)
- ___ started affinitor 
- ___: repeat MRI with worsening dural disease, but no 
leptomningeal disease. Seen by Dr. ___, decided to hold course 
for 1 more month
- ___: repeat brain MRI with 2 new punctate lesions in 
cerebellum. Reviewed with multiple teams and not felt to 
represent LM disease
- ___: PET with slight progression
- ___: MRI spine with mild retropulsion at C6 w/o cord 
indenting
- ___: started Eribulin 
- Oncopanel testing shows ESR1 mutation. PIK3CA mutation also 
seen

PAST MEDICAL HISTORY: 
Asthma
Herpes zoster
Lymphadema, left arm
 
Social History:
___
Family History:
No FH of cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.4 108 / 56 72 16 98% RA 
GENERAL: Pleasant, lying in bed comfortably
HEENT: Multiple subcutaneous nodules over back of head, EOMI, 
MMM
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi
ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly, subcutaneous nodules visually 
apparent
EXT: Warm, well perfused, no lower extremity edema, no calf 
tenderness
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses
NEURO: Alert, oriented, CN II-XII intact, motor ___ in all 
extremities, sensation intact, finger-to-nose and heel-to-shin 
normal, gait w/o abnormalities, Romberg negative
SKIN: subcutaneous nodules over back, head, abdomen as above

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.4PO 98 / 50Lying 71 18 98 RA   
GENERAL: Pleasant, lying in bed comfortably
HEENT: Multiple subcutaneous nodules over back of head, EOMI, 
MMM
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi
ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly, subcutaneous nodules visually 
apparent
EXT: Warm, well perfused, no lower extremity edema, no calf 
tenderness
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses
NEURO: Alert, oriented, CN II-XII intact, motor ___ in all 
extremities, sensation intact, finger-to-nose and heel-to-shin 
normal, gait w/o abnormalities, Romberg negative
SKIN: subcutaneous nodules over back, head, abdomen as above
 
Pertinent Results:
ADMISSION LABS
==============

___ 12:10AM BLOOD WBC-2.3* RBC-3.06* Hgb-8.8* Hct-27.7* 
MCV-91 MCH-28.8 MCHC-31.8* RDW-21.4* RDWSD-67.7* Plt ___
___ 12:10AM BLOOD Neuts-65 Bands-10* ___ Monos-4* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-1.73 
AbsLymp-0.48* AbsMono-0.09* AbsEos-0.00* AbsBaso-0.00*
___ 12:10AM BLOOD ___ PTT-27.4 ___
___ 12:10AM BLOOD Glucose-127* UreaN-11 Creat-0.6 Na-134 
K-4.4 Cl-99 HCO3-23 AnGap-16
___ 12:10AM BLOOD ALT-52* AST-43* AlkPhos-77 TotBili-0.7
___ 07:13PM BLOOD Calcium-8.7 Phos-4.2 Mg-2.3
___ 12:10AM BLOOD Albumin-3.7
___ 12:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:15AM URINE Color-Straw Appear-Clear Sp ___
___ 12:15AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:15AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

OTHER PERTINENT LABS
====================
___ 11:20AM CEREBROSPINAL FLUID (CSF) WBC-3 RBC-354* 
Polys-3 ___ Monos-8 Other-80
___ 11:20AM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-77* Polys-1 
___ Monos-2 Other-91
___ 11:20AM CEREBROSPINAL FLUID (CSF) TotProt-31 Glucose-42 
LD(LDH)-19

MICRO
=====
___ URINE CX - NEGATIVE
___ BLOOD CX X2 - NEGATIVE AT TIME OF D/C

___ CSF CX'S 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
Enterovirus Culture (Preliminary):    No Enterovirus isolated. 

DISCHARGE LABS
==============
___ 05:16AM BLOOD WBC-3.0* RBC-3.02* Hgb-8.6* Hct-27.2* 
MCV-90 MCH-28.5 MCHC-31.6* RDW-21.0* RDWSD-68.1* Plt ___
___ 05:16AM BLOOD Glucose-108* UreaN-12 Creat-0.6 Na-135 
K-4.0 Cl-99 HCO3-27 AnGap-13
___ 05:16AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.___ with metastatic breast cancer, who was transferred from ___ 
___ for altered mental status with headache, confusion, 
and slurred speech that had resolved by arrival to ___, 
admitted for further w/u and management.

# AMS, Word Finding Difficulties, Motor Dysfunction: Patient 
reports these symptoms began two days prior to arrival, resolved 
upon getting dexamethasone at outside hospital. Has had some 
neurological dysfunction in the past two months including some 
motor difficulties, but never confusion or word finding 
difficulties. Concern for meningitis was low given no signs or 
symptoms of infection, and the LP was negative for infectious 
etiology. However, high concern for progression of metastatic 
disease w/ meningeal involvement. MRI Head ___ demonstrated 3 
mm FLAIR hyperintense enhancing nodule of the left lateral 
ventricle at the level of the foramen of ___, and this lesion 
is new compared to previous MRI. She underwent LP ___, cytology 
results pending, will be sent to outpt oncologist upon 
finalization. Was continued on home dexamethasone.

# Metastatic Breast Cancer - diagnosed in ___, recurrence in 
___ w/ spread to skull and dura but not known to parenchyma. 
Followed at ___ w/ Dr. ___. Currently ongoing 
erubilin, finished cycle 2 w/ last dose on ___, due again on 
___. Continued on home meds, will f/u with Dr. ___ on ___ as 
above.

TRANSITIONAL ISSUES
===================
[ ] f/u final LP results, particularly cytology results - will 
be communicated to Dr. ___
[ ] pt has f/u appointment on ___ w/ Dr. ___ 
[ ] pt given disk with imaging done here at ___ for comparison 
w/ previous MRIs 

CODE: Full code (confirmed w patient) 
EMERGENCY CONTACT HCP: ___ (sister-in-law) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 25 mcg/h TD Q72H 
2. Prochlorperazine 5 mg PO Q6H:PRN  nausea 
3. Senna 8.6 mg PO BID 
4. Polyethylene Glycol 17 g PO DAILY 
5. Dexamethasone 4 mg PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Gabapentin 100 mg PO TID 
8. Lidocaine 5% Patch 1 PTCH TD QPM 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg ___ tablet(s) by mouth daily PRN Disp #*60 
Tablet Refills:*0 
2.  Lactulose 30 mL PO DAILY:PRN constipation 
RX *lactulose 10 gram/15 mL 30 ml by mouth daily PRN Refills:*0 
3.  Dexamethasone 4 mg PO DAILY  
4.  Fentanyl Patch 25 mcg/h TD Q72H  
5.  Gabapentin 100 mg PO TID  
6.  Lidocaine 5% Patch 1 PTCH TD QPM  
7.  Ondansetron 8 mg PO Q8H:PRN nausea  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Prochlorperazine 5 mg PO Q6H:PRN  nausea  
10.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute Toxic Metabolic Encephalopathy 
Metastatic breast cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___.

You were admitted for being confused and having movement 
dysfunctions at home. You went to an outside emergency room 
first and got some steroids which returned your mental status 
back to normal. You came here for further investigation. We did 
an MRI of your head which showed a new suspicious lesion in your 
brain. Therefore, we did a spinal tap to test the fluid for 
cancer. Those tests are still pending, but Dr. ___ be given 
the results and will communicate them with you on ___ 
when you see her in clinic. We also tested the fluid for 
infection which was negative (normal).

We wish you the best of health,
Your ___ Care  Team  
 
Followup Instructions:
___